US08735579B2
5-tert-butyl-2-methoxy-3-methylsulphanylmethyl-aniline
A mixture of 1.00 g 5-tert-butyl-2-methoxy-1-methylsulphanylmethyl-3-nitro-benzene, 4.20 g tin dichloride dihydrate and 15 ml of ethanol is refluxed for 2 h. Then the solvent is removed, and water and dichloromethane are added to the residue. The mixture is filtered through Celite, and the aqueous part of the filtrate is separated off and extracted twice with dichloromethane. The combined organic phases are dried (Na2SO4), and the solvent is removed. The residue is chromatographed on aluminium oxide with cyclohexane/ethyl acetate (4:1→1:4) as eluant.

reactant | 5-tert-butyl-2-methoxy-1-methylsulphanylmethyl-3-nitro-benzene | 1.00 g | C(C)(C)(C)C=1C=C(C(=C(C1)CSC)OC)[N+](=O)[O-] | C13H19NO3S
reactant | tin dichloride dihydrate | 4.20 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-tert-butyl-2-methoxy-3-methylsulphanylmethyl-aniline | C(C)(C)(C)C=1C=C(C(=C(N)C1)OC)CSC | C13H21NOS
